US07446102B2
Benzyl 2(S)-tert-butoxycarbonylamino-5-nitro-4-oxopentanoate
A solution A of 10 g (30.9 mmol) of 2(S)-tert-butoxycarbonylaminosuccinic acid 1-benzyl ester and 5.27 g (32.5 mmol) of 1,1′-carbonyldiimidazole in 100 ml of tetrahydrofuran is stirred at RT for 5 h. 18.8 g (30.9 mmol) of nitromethane are added dropwise to a solution B of 3.2 g (34.2 mmol) of potassium tert-butoxide in 100 ml of tetrahydrofuran at 0° C. Solution B is stirred while warming to RT, and then solution A is added dropwise at RT. The resulting mixture is stirred at RT for 16 h and adjusted to pH 2 using 20% hydrochloric acid. The solvent is evaporated. The remaining crude product is taken up in ethyl acetate/water. After separation of the phases, the organic phase is extracted twice with water, dried over sodium sulfate and concentrated. 13 g (99% of theory) of product are obtained.

reactant | 2(S)-tert-butoxycarbonylaminosuccinic acid 1-benzyl ester | 30.9 mmol, 10 g | C(C1=CC=CC=C1)OC([C@H](CC(=O)O)NC(=O)OC(C)(C)C)=O | C16H21NO6
reactant | 1,1′-carbonyldiimidazole | 32.5 mmol, 5.27 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | nitromethane | 30.9 mmol, 18.8 g | [N+](=O)([O-])C | CH3NO2
reactant | potassium tert-butoxide | 34.2 mmol, 3.2 g | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Benzyl 2(S)-tert-butoxycarbonylamino-5-nitro-4-oxopentanoate | C(C)(C)(C)OC(=O)N[C@H](C(=O)OCC1=CC=CC=C1)CC(C[N+](=O)[O-])=O | C17H22N2O7
